US09163021B2
2-[(Diphenylmethylene)amino]-N-methoxy-N-methylisonicotinamide
Benzophenone imine (2.17 g, 12.0 mmol) was added to 2-bromo-N-methoxy-N-methylisonicotinamide (2.45 g, 10.0 mmol), tris(dibenzylideneacetone)dipalladium (458 mg, 0.50 mmol), 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl (552 mg, 1.30 mmol) and sodium t-butoxide (2.40 g, 25.0 mmol) in toluene (40 mL). The mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with DCM and filtered through Arbocel™. The filtrate was washed with water (100 mL) then the organic phase was dried over sodium sulphate and evaporated in vacua. The crude material was purified by silica gel column chromatography eluting with heptane:EtOAc 100:0 to 30:70 to afford the title compound as an orange gum (71%, 2.44 g).

reactant | Benzophenone imine | 12.0 mmol, 2.17 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | 2-bromo-N-methoxy-N-methylisonicotinamide | 10.0 mmol, 2.45 g | BrC=1C=C(C(=O)N(C)OC)C=CN1 | C8H9BrN2O2
reactant | 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl | 1.30 mmol, 552 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C29H45P
reactant | sodium t-butoxide | 25.0 mmol, 2.40 g | CC(C)([O-])C.[Na+]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.50 mmol, 458 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-[(Diphenylmethylene)amino]-N-methoxy-N-methylisonicotinamide | 2.44 g, 71% | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC=1C=C(C(=O)N(C)OC)C=CN1 | C21H19N3O2
